US07071340B2
333 mg (1 mmol) of a 60/40 mixture of methyl 4-{[2-(iodomethyl)-2-propenyl]oxy}-3-formylbenzoate and of methyl 4-{[2-(chloromethyl)-2-propenyl]oxy}-3-formylbenzoate and then 297 mg (1.133 mmol) of triphenylphosphine are successively introduced into the 50 ml single-necked flask. The combined mixture is subjected to a stream of nitrogen and then 20 ml of acetonitrile are introduced via a hollow tube. After complete dissolution, the solution is brought to reflux overnight. After cooling the solution, 0.23 ml (1 mmol) of a solution of sodium methoxide in methanol is added dropwise and the medium is stirred for a further one hour. After the usual treatments, 120 mg (54%) of methyl 3-methylene-2,3-dihydro-1-benzoxepin-7-carboxylate are obtained in the form of a white solid; 1H NMR (300 MHz, CDCl3): 7.95 (d, J=1.8 Hz, 1H), 7.82 (dd, J=1.8 Hz and 8.4 Hz, 1H), 7.01 (d, J=8.4 Hz, 1H), 6.51 (d, J=12 Hz, 1H), 6.38 (d, J=12 Hz, 1H), 5.28 and 5.11 (2s, 2H), 4.61 (s, 2H), 3.89 (s, 3H).

reactant | methyl 4-{[2-(iodomethyl)-2-propenyl]oxy}-3-formylbenzoate | ICC(COC1=C(C=C(C(=O)OC)C=C1)C=O)=C | C13H13IO4
reactant | methyl 4-{[2-(chloromethyl)-2-propenyl]oxy}-3-formylbenzoate | ClCC(COC1=C(C=C(C(=O)OC)C=C1)C=O)=C | C13H13ClO4
reactant | triphenylphosphine | 1.133 mmol, 297 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | methyl 3-methylene-2,3-dihydro-1-benzoxepin-7-carboxylate | 120 mg, 54% | C=C1COC2=C(C=C1)C=C(C=C2)C(=O)OC | C13H12O3
